US08044043B2
(Z)-1-(2,3-difluorophenyl)cyclohept-4-enol.
In a 500 mL round-bottomed flask (t=g) was added 5-(2,3-difluorophenyl)nona-1,8-dien-5-ol (1.15 g, 4.56 mmol) in CH2Cl2 (50 mL) to give a colorless solution. Grubbs II (0.193 g, 0.228 mmol) was added, and the mixture was heated at 45° C. for 19 hours. TLC showed clean conversion to a more polar spot. Combined material with 68908-184 and concentrated to dryness and the residue was subject to purification up to 50% Et2O/hexane. The major peak was pooled and concentrated to a colorless oil (0.761 g, 74.5%). 1H NMR showed the majority as the desired product (same as the later synthesized compound using Grubbs I catalyst) and a minor component with double-bond isomerized.

reactant | 5-(2,3-difluorophenyl)nona-1,8-dien-5-ol | 4.56 mmol, 1.15 g | FC1=C(C=CC=C1F)C(CCC=C)(CCC=C)O | C15H18F2O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | Grubbs II | 0.228 mmol, 0.193 g | Cl[Ru]([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)(=CC4=CC=CC=C4)(Cl)=C5N(C6=C(C)C=C(C)C=C6C)CCN5C7=C(C)C=C(C)C=C7C
product | (Z)-1-(2,3-difluorophenyl)cyclohept-4-enol | FC1=C(C=CC=C1F)C1(CC\C=C/CC1)O | C13H14F2O
